US06235731B1
1) Synthesis of N-[1-[3-(2-methoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 0.80 g (2.14 mmol.) of N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride, 1.5 ml (10.76 mmol.) of triethylamine and 0.65 g (4.27 mmol.) of 1,8-diazabicyclo[5.4.0]unde-7-cene (DBU) in acetonitrile (20 ml) were added, at room temperature, 0.38 g of sodium iodide and 0.59 g (2.58 mmol.) of methyl 2-(3-chloro-1-propoxy)benzoate. The mixture was heated under reflux for 3 days under nitrogen atmosphere. The solvent was distilled off under reduced pressure. To the residue was added water, which was subjected to extraction with chloroform. The organic layer was washed with a saturated aqueous saline solution, which was dried over magnesium sulfate, followed by concentration. The concentrate was purified by means of a column chromatography (methanol/ethyl acetate 30-50%), followed by distilling off the solvent under reduced pressure to afford the object compound (0.81 g, 77%) as a reddish amorphous product.

reactant | N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 2.14 mmol, 0.80 g | Cl.Cl.N1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 10.76 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium iodide | 0.38 g | [I-].[Na+]
reactant | methyl 2-(3-chloro-1-propoxy)benzoate | 2.58 mmol, 0.59 g | ClCCCOC1=C(C(=O)OC)C=CC=C1 | C11H13ClO3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[1-[3-(2-methoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.81 g, 77% | COC(=O)C1=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC=C1 | C26H28N4O4S
